US04918083
1-(1-Hydroxypropyl)-2-hydroxymethylbenzene
This compound was prepared in an analogous manner to Example XI from 1O g (56 mM) of propiophenone-2-carboxylic acid and lithium aluminium hydride to yield the title compound as an oil.

reactant | propiophenone-2-carboxylic acid | 56 mM | CCC(=O)C1=CC=CC=C1C(=O)O | C10H10O3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-(1-Hydroxypropyl)-2-hydroxymethylbenzene | OC(CC)C1=C(C=CC=C1)CO | C10H14O2
